US05284838
d) 4-Fluoro-2-methoxypyridine
A solution containing 3.6 g of 4-amino-2-methoxypyridine in 15 ml of 48% fluoroboric acid is cooled to 10° C. 3 g of sodium nitrite are added in small portions at a temperature below -5° C. and the mixture is then stirred for 45 minutes at 0° C. It is brought slowly to room temperature and then stirred in a water bath for 30 minutes. It is cooled to -10° C. and then neutralized by the addition of 3M sodium hydroxide solution while being kept at low temperature. The mixture is extracted with 50 ml of ethyl ether and the organic phase is washed with 5 ml of cold water and dried over anhydrous potassium fluoride. The ether is distilled at atmospheric pressure. The oily residue is used as such in the next step.

reactant | 4-amino-2-methoxypyridine | 3.6 g | NC1=CC(=NC=C1)OC | C6H8N2O
reactant | sodium nitrite | 3 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 3M | [OH-].[Na+]
reactant | fluoroboric acid | 15 ml | F[B-](F)(F)F.[H+]
product | 4-Fluoro-2-methoxypyridine | FC1=CC(=NC=C1)OC | C6H6FNO
